US07745438B2
(4-Fluorotetrahydropyran-4-yl)-hydroxyacetonitrile
Dissolve 1,6-dioxaspiro[2,5]octane-2-carbonitrile (4.14 g, 29.8 mmol) in dry dichloromethane (10 mL) and cool to 0° C. under a nitrogen atmosphere in a polypropylene bottle. Add hydrogen fluoride-pyridine (3 mL) dropwise. Allow the mixture to slowly warm to room temperature over 3 h and then stir an additional 1.5 hours at room temperature. Pour into ethyl acetate and wash with saturated aqueous sodium bicarbonate solution until washes remain basic. Combine the aqueous washes and adjust the pH of the solution to ˜pH=8 and extract with ethyl acetate. Combine this organic extract with the ethyl acetate solution of the crude reaction mixture and wash with saturated aqueous sodium chloride solution, dry (magnesium sulfate), filter and concentrate to give the desired compound as a yellow oil which is used directly in the next reaction.

reactant | 1,6-dioxaspiro[2,5]octane-2-carbonitrile | 29.8 mmol, 4.14 g | O1C(C12CCOCC2)C#N | C7H9NO2
reactant | polypropylene | C(C(C)[*:2])[*:1]
reactant | hydrogen fluoride-pyridine | 3 mL | N1=CC=CC=C1.F
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (4-Fluorotetrahydropyran-4-yl)-hydroxyacetonitrile | FC1(CCOCC1)C(C#N)O | C7H10FNO2
